US05637593
To a cooled (ice bath) solution of bis (dimethylamino)methane (0.34 g) in dichloromethane (25 ml), acetyl chloride was added dropwise over 5 minutes. After stirring for 10 minutes, 5-phenoxyindole (0.51 g) was added and stirring continued for a further one hour at room temperature. The mixture was basified with aqueous 2N sodium hydroxide, brine (50 ml) added and the organic phase separated washed with water (2×50 ml), dried (MgSO4) and the solvent removed at reduced pressure. The residue was dissolved in dimethylformamide (25 ml) and potassium cyanide (0.62 g) and iodomethane (0.61 g) added. After stirring for 48 hours, the mixture was diluted with water (50 ml) and extracted with ethyl acetate (3×50 ml). The combined organic phases were washed with water (4×50 ml), dried (MgSO4) and solvent removed at reduced pressure to give 3-cyanomethyl-5-phenoxyindole (0.57 g).

reactant | bis (dimethylamino)methane | 0.34 g | CN(C)CN(C)C | C5H14N2
reactant | 5-phenoxyindole | 0.51 g | O(C1=CC=CC=C1)C=1C=C2C=CNC2=CC1 | C14H11NO
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | brine | 50 ml | [Cl-].[Na+].O
product | 3-cyanomethyl-5-phenoxyindole | 0.57 g | C(#N)CC1=CNC2=CC=C(C=C12)OC1=CC=CC=C1 | C16H12N2O
